US07504403B2
7-Hydroxy-2-phenyl-6,7,8,9-tetrahydro-pyrimido[1,2-a]pyrimidin -4-one:
In a 250 mL RBF with a stirrer bar, a mixture of 3-oxo-3-phenyl-propionic acid ethyl ester (15 g, 78 mmol), K2CO3 (11.0 g, 80 mmol) and 2-imino-hexahydro-pyrimidin-5-ol hydrochloride (11.8 g, 78 mmol) in EtOH (150 mL) was heated at 90° C. under nitrogen overnight. After 17 h, the mixture was cooled to room temperature, and filtered. The mother liquid was concentrated to a sludge that was then diluted with H2O. The resulting slurry was filtered and the solid was washed first with MeOH, then a mixture of EtOAc-MeOH (2:1) to give the first batch of product. The solid residue from the crude reaction was washed first with H2O (3×10 mL), then MeOH, and finally a mixture of EtOAc-MeOH (2: 1) to yield a second batch of product. The combined products were the dried in air to provide a white solid. 1H NMR (400 MHz, DMSO6): 7.94 (m, 2 H), 7.44 (bt, J 3.2, 0.5 H), 6.10 (s, 1H), 5.35 (d, J 3.2, 0.5 H), 4.22 (m, 1 H), 4.12 (d, J 14,1H), 3.54 (dd, J 14, 2.0,1 H), 3.39 (d, 12.4, 1H), 3.18 (m, 1H). M+1: 244.

reactant | 3-oxo-3-phenyl-propionic acid ethyl ester | 78 mmol, 15 g | C(C)OC(CC(C1=CC=CC=C1)=O)=O | C11H12O3
reactant | K2CO3 | 80 mmol, 11.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-imino-hexahydro-pyrimidin-5-ol hydrochloride | 78 mmol, 11.8 g | Cl.N=C1NCC(CN1)O
solvent | EtOH | 150 mL | CCO | C2H6O
product | 7-Hydroxy-2-phenyl-6,7,8,9-tetrahydro-pyrimido[1,2-a]pyrimidin -4-one | OC1CNC=2N(C(C=C(N2)C2=CC=CC=C2)=O)C1 | C13H13N3O2
